US04288447
Preparation of 4-(2-Aminoethyl)-1-ethyl-2-imino-3-phenylimidazolidine Dihydrochloride
A solution of 10.0 g (0.023 mole) of 4-(2-dibenzylaminoethyl)-1-ethyl-2-imino-3-phenylimidazolidine dihydrochloride hydrate in 175 ml of ethanol was shaken for 7 hours in a Parr apparatus at 70° C. with palladium catalyst at 45 p.s.i. hydrogen. After filtering and concentrating the filtrate in vacuo, the solid residue, was recrystallized from a 80/20% mixture of isopropanol-ethanol. The salt weighed 4.55 g (70% yield); m.p. 223°-224° C.

reactant | 4-(2-dibenzylaminoethyl)-1-ethyl-2-imino-3-phenylimidazolidine dihydrochloride hydrate | 0.023 mole, 10.0 g | O.Cl.Cl.C(C1=CC=CC=C1)N(CCC1N(C(N(C1)CC)=N)C1=CC=CC=C1)CC1=CC=CC=C1
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 175 ml | C(C)O | C2H6O
catalyst | palladium | [Pd] | Pd
product | 4-(2-Aminoethyl)-1-ethyl-2-imino-3-phenylimidazolidine Dihydrochloride | 70% yield | Cl.Cl.NCCC1N(C(N(C1)CC)=N)C1=CC=CC=C1 | InChI=1S/C13H20N4.2ClH/c1-2-16-10-12(8-9-14)17(13(16)15)11-6-4-3-5-7-11;;/h3-7,12,15H,2,8-10,14H2,1H3;2*1H
